US04725683
4-(4-(4-Bromo-2-fluorophenoxy)phenoxy)-3-methoxy-2-penten-1-ol
To a solution of 4.5 g (10.6 mmol) 4-(4-(4-bromo-2-fluorophenoxy)phenoxy)-3-methoxy-2-pentenoic acid, methyl ester in 25 ml toluene at -78° C. was added dropwise over a period of 30 min, 16.5 ml of 1.5M DIBAL-H in toluene, keeping the temperature below -60° C. The mixture was stirred for 21/2 hours at -78° C. To the mixture was added 17 ml of a 75:25:6 ether:acetic acid:water mixture, keeping the temperature below -60° C. The mixture was then allowed to warm to room temperature and the solid material was filtered off. The filtrate was washed twice with saturated NaHCO3 and once with water, dried over MgSO4 and the solvent was removed by rotary evaporation. The residue was purified by HPLC, eluting with 80:20 hexane:acetone, to give 3.1 g (74%) of the product as a pale yellow oil which was used immediately in the next reaction.

reactant | 4-(4-(4-bromo-2-fluorophenoxy)phenoxy)-3-methoxy-2-pentenoic acid, methyl ester | 10.6 mmol, 4.5 g | BrC1=CC(=C(OC2=CC=C(OC(C(=CC(=O)OC)OC)C)C=C2)C=C1)F | C19H18BrFO5
reactant | DIBAL-H | 1.5M, 16.5 ml | CC(C)C[AlH]CC(C)C
reactant | ether | 17 ml | CCOCC | C4H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-(4-(4-Bromo-2-fluorophenoxy)phenoxy)-3-methoxy-2-penten-1-ol | 3.1 g, 74% | BrC1=CC(=C(OC2=CC=C(OC(C(=CCO)OC)C)C=C2)C=C1)F | C18H18BrFO4
